US07071175B1
Tetrabutylammonium fluoride (19.6 g, 62.4 mmol) was added to a solution of [5-(tert-butyl-dimethyl-silanyloxymethyl)-6-methyl-pyridin-2-yl]-carbamic acid tert-butyl ester (10.5 g, 31.23 mmol) in THF (100 mL) and stirred at room temperature overnight. Water was added and the product extracted with chloroform. The organic phase was dried and concentrated under reduced pressure. Flash chromatography (MeOH/CH2Cl2, 2.5:77.5) gave (5-hydroxymethyl-6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester (6.0 g, 81%).

reactant | Tetrabutylammonium fluoride | 62.4 mmol, 19.6 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | [5-(tert-butyl-dimethyl-silanyloxymethyl)-6-methyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 31.23 mmol, 10.5 g | C(C)(C)(C)OC(NC1=NC(=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C)C)=O | C18H32N2O3Si
reactant | Water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (5-hydroxymethyl-6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 6.0 g, 81% | C(C)(C)(C)OC(NC1=NC(=C(C=C1)CO)C)=O | C12H18N2O3
